US06143764
N-(2-Hydroxyphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [281]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (105 mg) was dissolved in toluene (10 ml) with heat, after the addition of triethylamine (2 ml), triphosgene (118 mg) was added, and the admixture was refluxed with heat for 2 minutes. 2-Aminophenol (77 mg) was added to the reaction mixture, and the admixture was refluxed with heat for 10 minutes. After the addition of aqueous sodium hydrogen carbonate, the reaction mixture was extracted with chloroform, and the organic layer was then washed with brine and dried with anhydrous sodium sulfate. The solvent was removed by reduced-pressure distillation, and the resulting residue was washed with chloroform and filtered to obtain 86 mg of the title compound (yield: 56%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 105 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | triphosgene | 118 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-Aminophenol | 77 mg | NC1=C(C=CC=C1)O | C6H7NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | N-(2-Hydroxyphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 86 mg, yield: 56% | OC1=C(C=CC=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C24H21N3O5
